US05739132
To 1.34 g of 2-[4,5-dihydropyridazin-3(2H)-on-6-yl]-5-amino-4,5,6,7-tetrahydrobenzo[b]thiophene.hydroiodide and 1.2 ml of triethylamine dissolved in 20 ml of 1,3-dimethyl-2-imidazolidinone was added 765 mg of benzenesulfonyl chloride, and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into ice water and extracted with ethyl acetate. After the organic layer was washed and dried, the solvent was removed. The resulting crystals were recrystallized from nitromethane to obtain 1.22 g of 2-[4,5-dihydropyridazin-3(2H)-on-6-yl]-5-(phenylsulfonylamino)-4,5,6,7-tetrahydrobenzo[b]thiophene.

reactant | 2-[4,5-dihydropyridazin-3(2H)-on-6-yl]-5-amino-4,5,6,7-tetrahydrobenzo[b]thiophene.hydroiodide | 1.34 g | I.N=1NC(CCC1C1=CC2=C(S1)CCC(C2)N)=O
reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 765 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | 1,3-dimethyl-2-imidazolidinone | 20 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | 2-[4,5-dihydropyridazin-3(2H)-on-6-yl]-5-(phenylsulfonylamino)-4,5,6,7-tetrahydrobenzo[b]thiophene | 1.22 g | N=1NC(CCC1C1=CC2=C(S1)CCC(C2)NS(=O)(=O)C2=CC=CC=C2)=O | C18H19N3O3S2
